US07932272B2
5-(Benzofuran-5-yl-hydroxy-methyl)-thiophene-2-carbonitrile
To a solution of benzofuran-5-yl-(5-bromo-thiophen-2-yl)-methanol described in Preparation Example 176 (755 mg, 2.44 mmol) in 1-methyl-2-pyrrolidinone (15 mL) were added zinc cyanide (344 mg, 2.93 mmol) and tetrakis(triphenylphosphine)palladium (282 mg, 0.244 mmol), and the mixture was stirred at 120° C. for 3 hours. The reaction mixture was cooled to room temperature, then, aqueous ammonia was added, and the solution was filtered through Celite pad. The mother liquor was extracted with ethyl acetate, and the organic layer was washed with brine. Anhydrous magnesium sulfate was added to the organic layer for drying, which was then filtered, the filtrate was concentrated in vacuo, the residue was purified by silica gel column chromatography (heptane/ethyl acetate=3/1), and the title compound (364 mg, 58%) was obtained as a pale yellow oil.

reactant | benzofuran-5-yl-(5-bromo-thiophen-2-yl)-methanol | O1C=CC2=C1C=CC(=C2)C(O)C=2SC(=CC2)Br | C13H9BrO2S
reactant | ammonia | N | H3N
reactant | 1-methyl-2-pyrrolidinone | 15 mL | CN1C(CCC1)=O | C5H9NO
catalyst | zinc cyanide | 2.93 mmol, 344 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.244 mmol, 282 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(Benzofuran-5-yl-hydroxy-methyl)-thiophene-2-carbonitrile | 364 mg, 58% | O1C=CC2=C1C=CC(=C2)C(C2=CC=C(S2)C#N)O | C14H9NO2S
